US08664210B2
(E)-3-(4-Piperidyloxyimino)-4,4-dimethyl-6α-hydroxymethylandrostan-7α,17β-diol hydrochloride (I-ba)
4,4-Dimethyl-6α-hydroxymethyl-7α,17β-dihydroxyandrostan-3-one (Preparation 10, 40 mg) and 4-piperidyloxyamine dihydrochloride (Preparation 16, 52 mg) were dissolved in pyridine (1.0 ml) and stirred at RT for 4 days. After evaporation of the solvent, the resulting solid was triturated with DCM/AcOEt 1/1 to give, after filtration, the title compound (40 mg, 86%).

reactant | 4,4-Dimethyl-6α-hydroxymethyl-7α,17β-dihydroxyandrostan-3-one | 40 mg | CC1(C2[C@H]([C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)O)O)CO)C | C22H36O4
reactant | 4-piperidyloxyamine dihydrochloride | 52 mg | Cl.Cl.N1CCC(CC1)ON
solvent | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
product | (E)-3-(4-Piperidyloxyimino)-4,4-dimethyl-6α-hydroxymethylandrostan-7α,17β-diol hydrochloride | Cl.N1CCC(CC1)O\N=C/1\C(C2[C@H]([C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)O)CO)(C)C | InChI=1S/C27H46N2O4.ClH/c1-25(2)20(29-33-16-9-13-28-14-10-16)8-12-27(4)19-7-11-26(3)18(5-6-21(26)31)22(19)23(32)17(15-30)24(25)27;/h16-19,21-24,28,30-32H,5-15H2,1-4H3;1H/b29-20+;/t17-,18-,19-,21-,22-,23+,24?,26-,27+;/m0./s1
